US06953790B2
Step A. 3-[(2,4-Dimethoxybenzyl)amino]pyridine-2-carbonitrile
2,4-Dimethoxybenzylamine (3.29 g, 19.7 mmol) and triethylamine (1.99 g, 19.7 mmol) were added sequentially to a solution of 2-cyano-3-fluoropyridine (2.0 g, 16.4 mmol) (Sakamoto et. al., Chem. Pharm. Bull., 1985, 33, 565-71) in N,N-dimethylacetamide (29 mL). The reaction was heated at 80° C. for 4 h, quenched with water and extracted with diethyl ether (3×). The combined organic extracts were washed water, saturated brine, dried over magnesium sulfate and concentrated. The crude product was purified by flash chromatography (silica gel, 0-12% ethyl acetate (with 0.1 triethylamine) in dichloromethane gradient elution) to produce the title compound (3.25 g). MS 270.3 (M+1).

reactant | 2,4-Dimethoxybenzylamine | 19.7 mmol, 3.29 g | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | triethylamine | 19.7 mmol, 1.99 g | C(C)N(CC)CC | C6H15N
reactant | 2-cyano-3-fluoropyridine | 16.4 mmol, 2.0 g | C(#N)C1=NC=CC=C1F | C6H3FN2
solvent | N,N-dimethylacetamide | 29 mL | CN(C(C)=O)C | C4H9NO
product | 3-[(2,4-Dimethoxybenzyl)amino]pyridine-2-carbonitrile | 3.25 g | COC1=C(CNC=2C(=NC=CC2)C#N)C=CC(=C1)OC | C15H15N3O2
